US04254116
5,5-Dimethyl-8-(3-methyl-2-octyl)-10-[4-(2-methylpiperidino)butyryloxy]-5H-[1]benzopyrano[3,4-d]pyridine hydrochloride is prepared according to the method of Example 29 by reacting equimolar quantities of 5,5-dimethyl-10-hydroxy-8-(3-methyl-2-octyl)-5H-[1]benzopyrano[3,4-d]pyridine and γ-(2-methylpiperidino)butyric acid hydrochloride in the presence of dicyclohexyl carbodiimide.

reactant | 5,5-dimethyl-10-hydroxy-8-(3-methyl-2-octyl)-5H-[1]benzopyrano[3,4-d]pyridine | CC1(OC2=C(C(=CC(=C2)C(C)C(CCCCC)C)O)C=2C1=CC=NC2)C | C23H31NO2
reactant | γ-(2-methylpiperidino)butyric acid hydrochloride | Cl.CC1N(CCCC1)CCCC(=O)O
reactant | dicyclohexyl carbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
product | 5,5-Dimethyl-8-(3-methyl-2-octyl)-10-[4-(2-methylpiperidino)butyryloxy]-5H-[1]benzopyrano[3,4-d]pyridine hydrochloride | Cl.CC1(OC2=C(C(=CC(=C2)C(C)C(CCCCC)C)OC(CCCN2C(CCCC2)C)=O)C=2C1=CC=NC2)C | InChI=1S/C33H48N2O3.ClH/c1-7-8-9-13-23(2)25(4)26-20-29(37-31(36)15-12-19-35-18-11-10-14-24(35)3)32-27-22-34-17-16-28(27)33(5,6)38-30(32)21-26;/h16-17,20-25H,7-15,18-19H2,1-6H3;1H
